US06743794B2
Phenyl-(pyridin-3-yloxy)-acetic Acid Methyl Ester
To a slurry of 3-hydroxypyridine sodium salt, 4.6 g (26.4 mmol) in 200 mL of tetrahydrofuran was added 5.0 g (22.0 mmol) of alpha-bromophenylacetic acid. The reaction mixture was refluxed for two hours, cooled to rt. and concentrated to dryness. The residue was partitioned between 20% isopropanol/chloroform and water. The mixture was washed with saturated NaHCO3, washed with brine, dried over Na2SO4, filtered and concentrated to dryness. The residue was purified by column chromatography using MeOH/chloroform as eluent and concentrated to dryness to give 2.8 g of the desired mixture of isomers as a dark oil. MS (ion spray) 244.1 (M+).

reactant | 3-hydroxypyridine sodium salt | [Na].OC=1C=NC=CC1
reactant | alpha-bromophenylacetic acid | 22.0 mmol, 5.0 g | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | Phenyl-(pyridin-3-yloxy)-acetic Acid Methyl Ester | 2.8 g | COC(C(OC=1C=NC=CC1)C1=CC=CC=C1)=O | C14H13NO3
